US08217066B2
Step 1: [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-(3-phenyl-propyl)-amine:
5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylamine (0.300 g, 1.19 mmol), hydrocinnamaldehyde (0.192 g, 1.43 mmol), and sodium cyanoborohydride (0.188 g, 2.99 mmol) were combined in CH2Cl2 and stirred overnight at room temperature. After aqueous workup, the crude material was purified by silica gel chromatography to give the title compound.

reactant | 5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-ylamine | 1.19 mmol, 0.300 g | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)N | C10H9BrN2O
reactant | hydrocinnamaldehyde | 1.43 mmol, 0.192 g | C(CCC1=CC=CC=C1)=O | C9H10O
reactant | sodium cyanoborohydride | 2.99 mmol, 0.188 g | C(#N)[BH3-].[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [5-(4-Bromo-phenyl)-3-methyl-isoxazol-4-yl]-(3-phenyl-propyl)-amine | BrC1=CC=C(C=C1)C1=C(C(=NO1)C)NCCCC1=CC=CC=C1 | C19H19BrN2O
